US07335799B2
Under nitrogen atmosphere, 3,4-dihydro-2H-pyran (10.2 g, 121 mmol) was added dropwise to a stirred solution of 8-hydroxy-2,2,14,14-tetramethypentadecanedioic acid diethyl ester (16.1 g, 40 mmol) and p-toluenesulfonic acid monohydrate (catalytic amounts) in methylene chloride (100 mL) under cooling with an ice bath. The reaction mixture was allowed to warm to room temperature and stirred overnight. After the reaction was completed (TLC), the solution was filtered through basic aluminum oxide (50 g), which was washed with methylene chloride (4×30 mL). The filtrate was concentrated in vacuo to give crude product (19.5 g), which was purified by chromatography (silica gel, 200 g, heptanes/ethyl acetate=20:1, 10:1) yielding 2,2,14,14-tetramethyl-8-(tetrahydropyran-2-yloxy)-pentadecanedioic acid diethyl ester as a colorless oil (12.1 g, 62%). 1H NMR (300 MHz, CDCl3/TMS): δ (ppm): 4.69-4.59 (m, 1H), 4.11 (q, J=7.3 Hz, 4H), 3.98-3.82 (m, 1H), 3.65-3.40 (m, 2H), 2.00-1.18 (m, 26H), 1.24 (t, J=7.1 Hz, 6H), 1.15 (s, 12H). 13C NMR (75 MHz, CDCl3/TMS): δ (ppm): 177.74, 97.36, 76.48, 62.61, 60.02, 42.05, 40.70, 40.63, 34.90, 33.38, 31.16, 30.32, 30.26, 25.48, 25.10, 24.86, 19.96, 14.23.

reactant | 3,4-dihydro-2H-pyran | 121 mmol, 10.2 g | O1CCCC=C1 | C5H8O
reactant | 8-hydroxy-2,2,14,14-tetramethypentadecanedioic acid diethyl ester | 40 mmol, 16.1 g | C(C)OC(C(CCCCCC(CCCCCC(C(=O)OCC)(C)C)O)(C)C)=O | C23H44O5
reactant | p-toluenesulfonic acid monohydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | 2,2,14,14-tetramethyl-8-(tetrahydropyran-2-yloxy)-pentadecanedioic acid diethyl ester | 12.1 g, 62% | C(C)OC(C(CCCCCC(CCCCCC(C(=O)OCC)(C)C)OC1OCCCC1)(C)C)=O | C28H52O6
